* source LAB7
C_C1         0 N00105  1.59155e-8  TC=0,0 
R_R1         N00098 N00105  10k TC=0,0 
V_V1         N00098 0 DC 0Vdc AC 1Vac 
V_V2         N01052 0 DC 0Vdc AC 1Vac 
R_R2         N01052 N01059  1k TC=0,0 
R_R3         N01059 N01063  1k TC=0,0 
R_R4         N01082 N01067  1k TC=0,0 
R_R5         0 N01082  1k TC=0,0 
C_C2         0 N01063  1.591e-7  TC=0,0 
C_C3         N01067 N01059  1.591e-7  TC=0,0 
X_U1         N01063 N01082 VDC+ VDC- N01067 uA741
V_V3         VDC+ 0 5
V_V4         0 VDC- 5
X_U2         N02681 N02697 V1DC+ V1DC- N02685 uA741
V_V6         V1DC+ 0 15
R_R9         0 N02697  54k TC=0,0 
V_V5         N02645 0 DC 0Vdc AC 1Vac 
R_R6         N02645 N02677  7k TC=0,0 
C_C4         0 N02681  1.36e-6  TC=0,0 
V_V7         0 V1DC- 15
R_R7         N02677 N02681  41k TC=0,0 
C_C5         N02685 N02677  0.68e-6  TC=0,0 
R_R8         N02697 N02685  600k TC=0,0 
X_U3         N03679 0 V15DC+ V15DC- N04087 uA741
X_U4         N04442 0 V15DC+ V15DC- N04519 uA741
X_U5         0 N04301 V15DC+ V15DC- N04243 uA741
R_R10         N03727 N03679  77.5k TC=0,0 
V_V8         N03727 0 DC 0Vdc AC 1Vac 
R_R11         N03679 N04087  775k TC=0,0 
V_V10         0 V15DC- 15
V_V9         V15DC+ 0 15
C_C6         N04087 N03679  0.01e-6  TC=0,0 
R_R12         N03679 N04243  31k TC=0,0 
C_C7         N04301 N04243  0.01e-6  TC=0,0 
R_R13         N04301 N04519  31k TC=0,0 
R_R14         N04087 N04442  31k TC=0,0 
R_R15         N04442 N04519  31k TC=0,0 
.PARAM  cap2=1e-9 cap=10e-9
